US07417064B2
b) 5-Bromo-5-fluoro-6,7-dihydro-5H-benzo[b]thiophen-4-one
Add a solution of bromine (10.08 g, 63.1 mmol, 1.1 equiv.) in dry carbon tetrachloride (60 mL) dropwise via addition funnel over 1 h20 min to a cold (0° C.) solution of 5-fluoro-6,7-dihydro-5H-benzo[b]thiophen-4-one (9.72 g, 57.1 mmol, 1 equiv.) in dry diethyl ether (300 mL). Once all the bromine is added warm to room temperature for 2 hours and add more bromine (0.7 M in CCl4, 7 mL, 4.9 mmol, 0.09 equiv.) and stir the reaction mixture at room temperature for 1 hr before adding saturated aqueous sodium thiosulfate. The layers are separated and the aqueous layer is extracted with diethyl ether (three times). The combined organic extracts are dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. Purify the resultant crude material by medium pressure liquid chromatography eluting with 0 to 20% ethyl acetate in hexanes to afford the title compound (6.976 g, 49%). δH (400 MHz, CDCl3) 2.67-2.78 (m, 1H), 2.93 (dddd, 1H, J=14, 4, 4, 4 Hz), 3.24-3.31 (m, 2H), 7.21 (d, 1H, J=6 Hz), 7.45 (d, 1H, J=6 Hz).

reactant | bromine | 63.1 mmol, 10.08 g, 1.1 equiv. | BrBr | Br2
reactant | 5-fluoro-6,7-dihydro-5H-benzo[b]thiophen-4-one | 57.1 mmol, 9.72 g, 1 equiv. | FC1C(C2=C(SC=C2)CC1)=O | C8H7FOS
reactant | bromine | 4.9 mmol, 0.7 M, 7 mL, 0.09 equiv. | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 5-Bromo-5-fluoro-6,7-dihydro-5H-benzo[b]thiophen-4-one | 6.976 g, 49% | BrC1(C(C2=C(SC=C2)CC1)=O)F | C8H6BrFOS
